US06245761B1
Preparation of 2-[(4-chlorophenoxy)methyl]-1-[2-(piperidin-4-yl)ethyl]-1H-indole (Example 137)
Under an argon atmosphere 2-[(4-chlorophenoxy)methyl]-1-[2-(1-tritylpiperidin-4-yl)ethyl]-1H-indole was dissolved in 7.0 ml of methylene chloride. The reaction solution was then placed on an ice bath and formic acid (0.3383 g) was added. The resulting mixture was stirred in the ice bath for about five hours. The progress of the reaction was monitored by thin layer chromatography.

reactant | 2-[(4-chlorophenoxy)methyl]-1-[2-(1-tritylpiperidin-4-yl)ethyl]-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2)CCC2CCN(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C41H39ClN2O
reactant | formic acid | 0.3383 g | C(=O)O | CH2O2
solvent | methylene chloride | 7.0 ml | C(Cl)Cl | CH2Cl2
product | 2-[(4-chlorophenoxy)methyl]-1-[2-(piperidin-4-yl)ethyl]-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2)CCC2CCNCC2)C=C1 | C22H25ClN2O
